US07238716B2
To a mixture of 2-[2-[4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]benzyloxy]-3-pyridyl]acetonitrile (0.60 g) and 2-methoxyethanol (2 mL) was added a 4N aqueous potassium hydroxide solution (2 mL) and the mixture was heated under reflux for 4 hrs. 1N Hydrochloric acid (8 mL) and water were added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give crystals (0.40 g, 63%) of 2-[2-[4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]benzyloxy]-3-pyridyl]acetic acid. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 151-152° C.

reactant | 2-[2-[4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]benzyloxy]-3-pyridyl]acetonitrile | 0.60 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(COC2=NC=CC=C2CC#N)C=C1)C | C23H19N3O4
reactant | 2-methoxyethanol | 2 mL | COCCO | C3H8O2
reactant | potassium hydroxide | 4N, 2 mL | [OH-].[K+]
reactant | Hydrochloric acid | 1N, 8 mL | Cl | ClH
reactant | water | O | H2O
product | 2-[2-[4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]benzyloxy]-3-pyridyl]acetic acid | 0.40 g, 63% | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(COC2=NC=CC=C2CC(=O)O)C=C1)C | C23H20N2O6
